US06107329
(S)-(1-Dimethylcarbamoyl-3-phenyl-propyl)-carbamic acid tert-butyl ester
Dimethylamine hydrochloride (1.0 mmol) and (S)-N-t-butoxycarbonyl-2-amino-4-phenylbutyric acid (0.84 mmol) were coupled according to Procedure A (0-25° C. reaction temperature, 3:1 dichloromethane/DMF reaction solvent) giving the product which was used without further purification. Yield 238 mg, 93%; HPLC (60/40) 5.98 minutes (97%).

reactant | Dimethylamine hydrochloride | 1.0 mmol | Cl.CNC
reactant | (S)-N-t-butoxycarbonyl-2-amino-4-phenylbutyric acid | 0.84 mmol | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CCC1=CC=CC=C1 | C15H21NO4
solvent | dichloromethane DMF | ClCCl.CN(C)C=O
product | (S)-(1-Dimethylcarbamoyl-3-phenyl-propyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CCC1=CC=CC=C1)C(N(C)C)=O)=O | C17H26N2O3
